US08349826B2
1.i. 3-(7-methoxy-2-oxo-2H-quinolin-1-yl)-propionic acid ethyl ester
The compound was obtained according to procedure H starting from 7-methoxy-2(1H)-quinolinone (614 mg, 3.5 mmol) and ethyl acrylate (0.4 mL). The crude brown oil (0.96 g; 100% yield) was used as such in the next step.

reactant | 7-methoxy-2(1H)-quinolinone | 3.5 mmol, 614 mg | COC1=CC=C2C=CC(NC2=C1)=O | C10H9NO2
reactant | ethyl acrylate | 0.4 mL | C(C=C)(=O)OCC | C5H8O2
product | 3-(7-methoxy-2-oxo-2H-quinolin-1-yl)-propionic acid ethyl ester | 100% yield | C(C)OC(CCN1C(C=CC2=CC=C(C=C12)OC)=O)=O | C15H17NO4
